US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-3-piperidinol
A mixture of 8.5 (17.03 mmols) of 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-hydroxypiperidine, 2.0 g. of 10% palladium-on-carbon and 60 ml. of ethanol is stirred under one atmosphere of hydrogen for 2 hours. The reaction mixture is filtered through diatomaceous earth with ethyl acetate and evaporated. The residue is recrystallized from ethyl acetate to yield 3.8 g. (70%) of the title compound. A second crop of the title compound 0.396 g. (7%) is obtained from the mother liquor.

reactant | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-hydroxypiperidine | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H45NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-3-piperidinol | 70% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1(CNCCC1)O)O | C20H33NO2
